### PR TITLE
[Merged by Bors] - feat(GroupTheory/Index): add Lagrange's theorem for monoid homomorphisms

### PR DESCRIPTION
**Pull request by Nicola9Falciola**
---

Add the Lagrange's theorem for monoid hom and its specialization to surjective hom. 
With this I have simplify the proof of `card_dvd_of_surjective`. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Index.lean [hunk 1]
```diff
@@ -291,11 +291,20 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
...
   exact relIndex_mul_index bot_le
 
+@[to_additive]
+theorem card_eq_card_range_mul_card_ker (f : G →* G') :
+    Nat.card G = Nat.card f.range * Nat.card f.ker := by
+  rw [← index_ker, mul_comm, card_mul_index]
+
+@[to_additive]
+theorem card_eq_card_mul_card_ker_of_surjective {f : G →* G'} (hf : Function.Surjective f) :
+     Nat.card G  = Nat.card f.ker * Nat.card G'  := by
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
    Nat.card G = Nat.card f.ker * Nat.card G' := by
```

File: Mathlib/GroupTheory/Index.lean [hunk 2]
```diff
@@ -291,11 +291,20 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
   rw [← relIndex_bot_left, ← index_bot]
   exact relIndex_mul_index bot_le
 
+@[to_additive]
+theorem card_eq_card_range_mul_card_ker (f : G →* G') :
+    Nat.card G = Nat.card f.range * Nat.card f.ker := by
+  rw [← index_ker, mul_comm, card_mul_index]
+
+@[to_additive]
+theorem card_eq_card_mul_card_ker_of_surjective {f : G →* G'} (hf : Function.Surjective f) :
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
theorem card_eq_card_ker_mul_card_of_surjective {f : G →* G'} (hf : Function.Surjective f) :
```

File: Mathlib/GroupTheory/Index.lean [hunk 3]
```diff
@@ -291,11 +291,20 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
   rw [← relIndex_bot_left, ← index_bot]
   exact relIndex_mul_index bot_le
 
+@[to_additive]
+theorem card_eq_card_range_mul_card_ker (f : G →* G') :
+    Nat.card G = Nat.card f.range * Nat.card f.ker := by
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
theorem card_range_mul_card_ker (f : G →* G') : Nat.card f.range * Nat.card f.ker = Nat.card G := by
```

File: Mathlib/GroupTheory/Index.lean [hunk 4]
```diff
@@ -291,11 +291,19 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
   rw [← relIndex_bot_left, ← index_bot]
   exact relIndex_mul_index bot_le
 
+@[to_additive]
+theorem card_range_mul_card_ker (f : G →* G') : Nat.card f.range * Nat.card f.ker = Nat.card G := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Why not `Nat.card f.ker * Nat.card f.range = Nat.card G`?

File: Mathlib/GroupTheory/Index.lean [hunk 5]
```diff
@@ -291,11 +291,19 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
...
+  rw [← index_ker, mul_comm, card_mul_index]
+
+@[to_additive]
+theorem card_eq_card_ker_mul_card_of_surjective {f : G →* G'} (hf : Function.Surjective f) :
+    Nat.card G = Nat.card f.ker * Nat.card G' := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Maybe this should also have the more complicated side on the left?
```suggestion
    Nat.card f.ker * Nat.card G' = Nat.card G := by
```

File: Mathlib/GroupTheory/Index.lean [hunk 6]
```diff
@@ -291,11 +291,19 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
   rw [← relIndex_bot_left, ← index_bot]
   exact relIndex_mul_index bot_le
 
+@[to_additive]
+theorem card_range_mul_card_ker (f : G →* G') : Nat.card f.ker * Nat.card f.range = Nat.card G := by
+  rw [← index_ker, card_mul_index]
+
+@[to_additive]
+theorem card_eq_card_ker_mul_card_of_surjective {f : G →* G'} (hf : Function.Surjective f) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
theorem card_ker_mul_card_of_surjective {f : G →* G'} (hf : Function.Surjective f) :
```

File: Mathlib/GroupTheory/Index.lean [hunk 7]
```diff
@@ -291,11 +291,19 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
...
+    Nat.card f.ker * Nat.card G' = Nat.card G := by
+  simp [← card_range_mul_card_ker f, mul_comm, hf]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Does this really need `mul_comm`?

File: Mathlib/GroupTheory/Index.lean [hunk 8]
```diff
@@ -291,11 +291,19 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
   rw [← relIndex_bot_left, ← index_bot]
   exact relIndex_mul_index bot_le
 
+@[to_additive]
+theorem card_range_mul_card_ker (f : G →* G') : Nat.card f.ker * Nat.card f.range = Nat.card G := by
```
Comment (JX-Mo) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
theorem card_ker_mul_card_range (f : G →* G') : Nat.card f.ker * Nat.card f.range = Nat.card G := by
```

File: Mathlib/GroupTheory/Index.lean (hunk 7 above)
Comment (Nicola9Falciola) [reply Mathlib/GroupTheory/Index.lean]: I have eliminated the `mul_com` and also find just a `rw` proof (I am copypasting the proof of `Subgroup.card_top` as it is in Mathlib.Algebra.Group.Subgroup.Finite which is not imported.

File: Mathlib/GroupTheory/Index.lean [hunk 9]
```diff
@@ -291,11 +291,20 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
...
 
+@[to_additive]
+theorem card_ker_mul_card_range (f : G →* G') : Nat.card f.ker * Nat.card f.range = Nat.card G := by
+  rw [← index_ker, card_mul_index]
+
+@[to_additive]
+theorem card_ker_mul_card_of_surjective {f : G →* G'} (hf : Function.Surjective f) :
+    Nat.card f.ker * Nat.card G' = Nat.card G := by
+  rw [← card_ker_mul_card_range f,  MonoidHom.range_eq_top.mpr hf,
+    Nat.card_congr topEquiv.toEquiv]
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
  rw [← card_ker_mul_card_range f,  MonoidHom.range_eq_top.mpr hf, Nat.card_congr topEquiv.toEquiv]
```

File: Mathlib/GroupTheory/Index.lean [hunk 10]
```diff
@@ -291,11 +291,20 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
   rw [← relIndex_bot_left, ← index_bot]
   exact relIndex_mul_index bot_le
 
+@[to_additive]
+theorem card_ker_mul_card_range (f : G →* G') : Nat.card f.ker * Nat.card f.range = Nat.card G := by
+  rw [← index_ker, card_mul_index]
+
+@[to_additive]
+theorem card_ker_mul_card_of_surjective {f : G →* G'} (hf : Function.Surjective f) :
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Index.lean]: `f` is a `variable`
```suggestion
theorem card_ker_mul_card_of_surjective (hf : Function.Surjective f) :
```

File: Mathlib/GroupTheory/Index.lean [hunk 11]
```diff
@@ -291,11 +291,20 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
   rw [← relIndex_bot_left, ← index_bot]
   exact relIndex_mul_index bot_le
 
+@[to_additive]
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Index.lean]: `to_additive` will change `mul` to `add` unless you ask it not to
```suggestion
@[to_additive card_ker_mul_card_range]
```
Similarly below

Comment (Nicola9Falciola) [reply Mathlib/GroupTheory/Index.lean]: Thank you I didn't know it!

File: Mathlib/GroupTheory/Index.lean (hunk 10 above)
Comment (JX-Mo) [reply Mathlib/GroupTheory/Index.lean]: three more: index_map_dvd dvd_index_map index_map_of_injective

File: Mathlib/GroupTheory/Index.lean [hunk 12]
```diff
@@ -291,11 +291,19 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
...
+theorem card_ker_mul_card_range (f : G →* G') : Nat.card f.ker * Nat.card f.range = Nat.card G := by
+  rw [← index_ker, card_mul_index]
+
+@[to_additive card_ker_mul_card_of_surjective]
+theorem card_ker_mul_card_of_surjective (hf : Function.Surjective f) :
+    Nat.card f.ker * Nat.card G' = Nat.card G := by
+  rw [← card_ker_mul_card_range f,  MonoidHom.range_eq_top.mpr hf, Nat.card_congr topEquiv.toEquiv]
+
 @[to_additive]
 theorem card_dvd_of_surjective (f : G →* G') (hf : Function.Surjective f) :
```
Comment (JX-Mo) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
theorem card_dvd_of_surjective (hf : Function.Surjective f) :
```
Fix the proof accordingly at `card_range_dvd` `card_map_dvd` in this file and `card_dvd_exponent_pow_rank` in GroupTheory.Schreier.lean

Comment (Nicola9Falciola) [reply Mathlib/GroupTheory/Index.lean]: Done, I have also made the same changes at `index_map_of_injective` and `index_map_dvd` .

**Review by JX-Mo — APPROVED** [review]

File: Mathlib/GroupTheory/Index.lean [hunk 13]
```diff
@@ -291,27 +291,35 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
...
 
 @[to_additive]
 theorem index_map (f : G →* G') :
     (H.map f).index = (H ⊔ f.ker).index * f.range.index := by
   rw [← comap_map_eq, index_comap, relIndex_mul_index (H.map_le_range f)]
 
 @[to_additive]
-theorem index_map_dvd {f : G →* G'} (hf : Function.Surjective f) :
+theorem index_map_dvd (hf : Function.Surjective f) :
     (H.map f).index ∣ H.index := by
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
theorem index_map_dvd (hf : Surjective f) : (H.map f).index ∣ H.index := by
```

File: Mathlib/GroupTheory/Index.lean [hunk 14]
```diff
@@ -291,27 +291,35 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
...
+    Nat.card f.ker * Nat.card G' = Nat.card G := by
+  rw [← card_ker_mul_card_range f,  MonoidHom.range_eq_top.mpr hf, Nat.card_congr topEquiv.toEquiv]
+
 @[to_additive]
-theorem card_dvd_of_surjective (f : G →* G') (hf : Function.Surjective f) :
-    Nat.card G' ∣ Nat.card G := by
-  rw [← Nat.card_congr (QuotientGroup.quotientKerEquivOfSurjective f hf).toEquiv]
-  exact Dvd.intro_left (Nat.card f.ker) f.ker.card_mul_index
+theorem card_dvd_of_surjective (hf : Function.Surjective f) :
+    Nat.card G' ∣ Nat.card G :=
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
theorem card_dvd_of_surjective (hf : Surjective f) : Nat.card G' ∣ Nat.card G :=
```

File: Mathlib/GroupTheory/Index.lean [hunk 15]
```diff
@@ -291,27 +291,35 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
   rw [← relIndex_bot_left, ← index_bot]
   exact relIndex_mul_index bot_le
 
+@[to_additive card_ker_mul_card_range]
+theorem card_ker_mul_card_range (f : G →* G') : Nat.card f.ker * Nat.card f.range = Nat.card G := by
+  rw [← index_ker, card_mul_index]
+
+@[to_additive card_ker_mul_card_of_surjective]
+theorem card_ker_mul_card_of_surjective (hf : Function.Surjective f) :
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
theorem card_ker_mul_card_of_surjective (hf : Surjective f) :
```

File: Mathlib/GroupTheory/Index.lean [hunk 16]
```diff
@@ -335,7 +343,7 @@ theorem index_map_equiv (e : G ≃* G') : (map (e : G →* G') H).index = H.inde
   index_map_of_bijective e.bijective H
 
 @[to_additive]
-theorem index_map_of_injective {f : G →* G'} (hf : Function.Injective f) :
+theorem index_map_of_injective (hf : Function.Injective f) :
     (H.map f).index = H.index * f.range.index := by
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
theorem index_map_of_injective (hf : Injective f) : (H.map f).index = H.index * f.range.index := by
```

File: Mathlib/GroupTheory/Index.lean [hunk 17]
```diff
@@ -291,28 +291,35 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
...
 
 @[to_additive]
 theorem index_map (f : G →* G') :
     (H.map f).index = (H ⊔ f.ker).index * f.range.index := by
   rw [← comap_map_eq, index_comap, relIndex_mul_index (H.map_le_range f)]
 
 @[to_additive]
-theorem index_map_dvd {f : G →* G'} (hf : Function.Surjective f) :
-    (H.map f).index ∣ H.index := by
+theorem index_map_dvd (hf : Function.Surjective f) : (H.map f).index ∣ H.index := by
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
theorem index_map_dvd (hf : Surjective f) : (H.map f).index ∣ H.index := by
```

File: Mathlib/GroupTheory/Index.lean [hunk 18]
```diff
@@ -291,28 +291,34 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
...
   exact relIndex_mul_index bot_le
 
+@[to_additive card_ker_mul_card_range]
+theorem card_ker_mul_card_range (f : G →* G') : Nat.card f.ker * Nat.card f.range = Nat.card G := by
+  rw [← index_ker, card_mul_index]
+
+@[to_additive card_ker_mul_card_of_surjective]
+theorem card_ker_mul_card_of_surjective (hf : Surjective f) :
+    Nat.card f.ker * Nat.card G' = Nat.card G := by
+  rw [← card_ker_mul_card_range f,  MonoidHom.range_eq_top.mpr hf, Nat.card_congr topEquiv.toEquiv]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: (I haven't checked that this works)
```suggestion
  rw [← card_ker_mul_card_range f,  f.range_eq_top_of_surjective hf, card_top]
```

Comment (Nicola9Falciola) [reply Mathlib/GroupTheory/Index.lean]: I have made the `f.range_eq_top_of_surjective` change, for the `card_top` I have already commented that it is in  Mathlib.Algebra.Group.Subgroup.Finite which is not imported.

File: Mathlib/GroupTheory/Index.lean [hunk 19]
```diff
@@ -291,28 +291,34 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
...
   exact relIndex_mul_index bot_le
 
+@[to_additive card_ker_mul_card_range]
+theorem card_ker_mul_card_range (f : G →* G') : Nat.card f.ker * Nat.card f.range = Nat.card G := by
+  rw [← index_ker, card_mul_index]
+
+@[to_additive card_ker_mul_card_of_surjective]
+theorem card_ker_mul_card_of_surjective (hf : Surjective f) :
+    Nat.card f.ker * Nat.card G' = Nat.card G := by
+  rw [← card_ker_mul_card_range f,  f.range_eq_top.mpr hf, Nat.card_congr topEquiv.toEquiv]
```
Comment (JX-Mo) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
  rw [← card_ker_mul_card_range f, f.range_eq_top.mpr hf, Nat.card_congr topEquiv.toEquiv]
```

File: Mathlib/GroupTheory/Index.lean (hunk 18 above)
Comment (tb65536) [reply Mathlib/GroupTheory/Index.lean]: I think the extra import is worth it to avoid the awkward work-around `Nat.card_congr topEquiv.toEquiv`.

Comment (Nicola9Falciola) [reply Mathlib/GroupTheory/Index.lean]: Actually that is the copy paste of the proof of `card_top` but if you think that adding the import is better I will do so.

Comment (tb65536) [reply Mathlib/GroupTheory/Index.lean]: You should add the import.

Comment (Nicola9Falciola) [reply Mathlib/GroupTheory/Index.lean]: Done.

File: Mathlib/GroupTheory/Index.lean [hunk 20]
```diff
@@ -291,28 +292,34 @@ theorem card_mul_index : Nat.card H * H.index = Nat.card G := by
...
   exact relIndex_mul_index bot_le
 
+@[to_additive card_ker_mul_card_range]
+theorem card_ker_mul_card_range (f : G →* G') : Nat.card f.ker * Nat.card f.range = Nat.card G := by
+  rw [← index_ker, card_mul_index]
+
+@[to_additive card_ker_mul_card_of_surjective]
+theorem card_ker_mul_card_of_surjective (hf : Surjective f) :
+    Nat.card f.ker * Nat.card G' = Nat.card G := by
+  rw [← card_ker_mul_card_range f, f.range_eq_top.mpr hf, card_top]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
  rw [← card_ker_mul_card_range f, f.range_eq_top_of_surjective hf, card_top]
```

**Review by tb65536 — APPROVED** [review]

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
